US08877801B2
To a 30 mL vial, (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (98 mg, 0.23 mmol) was dissolved in DMF (2 mL). The vial was charged with HATU (129 mg, 0.34 mmol) and DIEA (0.119 mL, 0.68 mmol) and the mixture was stirred for 10 min. A color change from pale orange to a dark orange was observed. To the solution was added NH4Cl (24.24 mg, 0.45 mmol) and the reaction mixture was stirred for 30 min at room temperature. The reaction was quenched with sat. aq. NH4Cl and diluted with DCM. The organic phase was collected (phase separator) and concentrated to afford the crude product. The crude material was purified by column chromatography (SiO2, 1-10% MeOH/DCM) to afford (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylamide (77 mg, 0.18 mmol, 79% yield) as an off white solid. 1H NMR (400 MHz, CD3OD) δ ppm=8.00 (s, 4H), 7.59-7.70 (m, 2H), 7.45-7.55 (m, 2H), 7.42 (d, J=2.02 Hz, 1H), 7.24 (d, J=8.59 Hz, 1H), 6.84-7.02 (m, 4H), 6.52 (d, J=15.66 Hz, 1H), 3.88 (s, 2H), 3.79 (s, 3H). LC/MS (m/z, MH+): 432.3.

reactant | (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.23 mmol, 98 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)O)C2=CC=C(C=C2)OC)C1 | C25H20O5S
reactant | HATU | 0.34 mmol, 129 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.68 mmol, 0.119 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 0.45 mmol, 24.24 mg | [NH4+].[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylamide | 0.18 mmol, 77 mg, 79% yield | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)N)C2=CC=C(C=C2)OC)C1 | C25H21NO4S
